US06547841B2
1-(2,3-Dihydrobenzofuran-3-ylmethoxy)-2,2,6,6-tetramethylpiperidine
The procedure of Example 1 is repeated using 1.95 g (12.5 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 3.10 g (30 mmol) of tert-butyl nitrite, 2.4 g (25 mmol) of pyridine, 7.5 mg (0.012 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II) mmol) in 100 mL of chlorobenzene and 5.60 g (25 mmol) of 2-allyloxyaniline in 20 mL of chlorobenzene. The crude product obtained is purified by vacuum flash chromatography (25% ethyl acetate/heptane) to give 2.13 g of a viscous liquid in 59.0% yield.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 12.5 mmol, 1.95 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | tert-butyl nitrite | 30 mmol, 3.10 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | pyridine | 25 mmol, 2.4 g | N1=CC=CC=C1 | C5H5N
reactant | 2-allyloxyaniline | 25 mmol, 5.60 g | C(C=C)OC1=C(N)C=CC=C1 | C9H11NO
solvent | chlorobenzene | 100 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 20 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(2,3-Dihydrobenzofuran-3-ylmethoxy)-2,2,6,6-tetramethylpiperidine | 2.13 g, 59.0% yield | O1CC(C2=C1C=CC=C2)CON2C(CCCC2(C)C)(C)C | C18H27NO2
